US09260412B2
Preparation of [4-(difluoromethoxy)-2,6-difluorophenyl]methanol
500 mg 3,5-difluoro-4-(hydroxymethyl)phenol (3.12 mmol, 1.0 eq.) were dissolved in DMF. 523 mg sodium chloro(difluoro)acetate (3.44 mmol, 1.1 eq.), 1.22 g cesium carbonate (3.75 mmo, 1.2 eq) and 0.20 mL water (10.9 mmol, 3.5 eq.) were added. The reaction mixture was stirred at 100° C. over night. The reaction mixture was divided between water and ethyl acetate. The aqueous layer was washed twice with ethyl acetate. The combined organic layers were washed with brine, dried over a silicon filter and concentrated in vacuo. The crude product was purified by flash chromatography to provide 161 mg (0.69 mmol, 22%) of the 56% pure target compound.

reactant | 3,5-difluoro-4-(hydroxymethyl)phenol | 3.12 mmol, 500 mg, 1.0 eq. | FC=1C=C(C=C(C1CO)F)O | C7H6F2O2
reactant | sodium chloro(difluoro)acetate | 3.44 mmol, 523 mg, 1.1 eq. | ClC(C(=O)[O-])(F)F.[Na+]
reactant | cesium carbonate | 1.22 g, 1.2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 10.9 mmol, 0.20 mL, 3.5 eq. | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-(difluoromethoxy)-2,6-difluorophenyl]methanol | 56% | FC(OC1=CC(=C(C(=C1)F)CO)F)F | C8H6F4O2
